US07816526B2
Synthesis of N′-(2-chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine
N′-(2-Chloro-6-(trimethylsilylethynyl)imidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine (2.31 g, 4.63 mmol) was dissolved in a mixed solvent of tetrahydrofuran-water (10:1), and tetrabutylammonium fluoride hydrate (1.50 g, 5.04 mmol) was added to the solution with stirring under ice-cooling. After the mixture was stirred for 20 minutes under ice-cooling, the tetrahydrofuran was distilled away under reduced pressure, and the residues were dissolved in ethyl acetate. The ethyl acetate solution was washed twice with water, dehydrated over anhydrous magnesium sulfate, concentrated to dryness under reduced pressure to give the title compound as pale yellow crystals. The yield was 1.96 g (100%).

reactant | N′-(2-Chloro-6-(trimethylsilylethynyl)imidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | 4.63 mmol, 2.31 g | ClC=1N=C2N(N=C(C=C2)C#C[Si](C)(C)C)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C20H30ClN5O2SSi
reactant | tetrabutylammonium fluoride hydrate | 5.04 mmol, 1.50 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran water | O1CCCC1.O
product | N′-(2-chloro-6-ethynylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | ClC=1N=C2N(N=C(C=C2)C#C)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C17H22ClN5O2S
